US04827004
A solution of 300 mg (0.00088 mol) of methyl [[(6E, 10Z)-12-hydroxy-2,6,10-trimethyl-3-oxo-6,10-dodecadienyl]thio]acetate in 5 ml of methylene chloride is treated with 0.5 ml of pyridine and 0.4 ml of acetic anhydride. The solution is stirred at room temperature for 18 hours under argon. After removing the solvent the residue is taken up three times in toluene and freed from solvent each time on a rotary evaporator. The residue is chromatographed on silica gel with ether. There is obtained (2Z,6E)-12-[[(methoxycarbonyl)methyl]thio]-3,7,11-trimethyl-10-oxo-2,6-dodecadienyl acetate which exhibits the following bands in the IR spectrum: 1710 cm-1, 1657 cm-1, 1552 cm-1, 1445 cm-1, 1375 cm-1, 1290 cm-1, 1235 cm-1.

reactant | methyl [[(6E, 10Z)-12-hydroxy-2,6,10-trimethyl-3-oxo-6,10-dodecadienyl]thio]acetate | 0.00088 mol, 300 mg | OC\C=C(/CC/C=C(/CCC(C(CSCC(=O)OC)C)=O)\C)\C | C18H30O4S
reactant | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 0.4 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | (2Z,6E)-12-[[(methoxycarbonyl)methyl]thio]-3,7,11-trimethyl-10-oxo-2,6-dodecadienyl acetate | C(C)(=O)OC\C=C(/CC\C=C(\CCC(C(CSCC(=O)OC)C)=O)/C)\C | C20H32O5S
